US08211901B2
Preparation of N-(2-aminophenyl)-6-(6,7-dimethoxyquinolin-4-yloxy)-1-naphthamide
The title compound (40.0 mg, 86% yield) was prepared as a brown solid from 6-(6,7-dimethoxyquinolin-4-yloxy)-1-naphthoic acid (37.5 mg, 0.1 mmol) and o-phenylenediamine (43.2 mg, 0.4 mmol) by an analogous procedure to that described in example 16. 1H NMR (DMSO-d6) δ 3.93 (s, 3H, —OCH3), 3.95 (s, 3H, —OCH3), 4.99 (s, 2H, benzene-NH2), 6.56 (d, J=5.2 Hz, 1H, Ar—H), 6.63 (t, J=7.6 Hz, 1H, Ar—H), 6.81 (d, J=7.6 Hz, 1H, Ar—H), 6.98 (t, J=7.2 Hz, 1H, Ar—H), 7.36 (d, J=7.6 Hz, 1H, Ar—H), 7.43 (s, 1H, Ar—H), 7.56-7.58 (m, 2H, Ar—H), 7.65 (t, J=7.6 Hz, 1H, Ar—H), 7.87-7.90 (m, 2H, Ar—H), 8.08 (d, J=8.0 Hz, 1H, Ar—H), 8.43 (d, J=9.2 Hz, 1H, Ar—H), 8.49 (d, J=5.2 Hz, 1H, Ar—H), 9.87 (s, 1H, benzene-NH). LC-MS (m/z) 466 (M+1).

reactant | 6-(6,7-dimethoxyquinolin-4-yloxy)-1-naphthoic acid | 0.1 mmol, 37.5 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C22H17NO5
reactant | o-phenylenediamine | 0.4 mmol, 43.2 mg | C1(=C(C=CC=C1)N)N | C6H8N2
product | N-(2-aminophenyl)-6-(6,7-dimethoxyquinolin-4-yloxy)-1-naphthamide | 40.0 mg, 86% yield | NC1=C(C=CC=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C28H23N3O4
